US06426345B1
A mixture of 3-amino-2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]pyridine (180 mg) and 2-oxosuccinic acid (90 mg) in ethanol (4 ml) was stirred under reflux for 1.5 hours. The mixture was cooled and then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was washed with ethanol to give 4-(3-cyclopentyloxy-4-methoxyphenyl)-2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (100 mg).

reactant | 3-amino-2-[(3-cyclopentyloxy-4-methoxyphenyl)amino]pyridine | 180 mg | NC=1C(=NC=CC1)NC1=CC(=C(C=C1)OC)OC1CCCC1 | C17H21N3O2
reactant | 2-oxosuccinic acid | 90 mg | O=C(C(=O)O)CC(=O)O | C4H4O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 100 mg | C1(CCCC1)OC=1C=C(C=CC1OC)N1C2=C(N=C(C1=O)C)C=CC=N2 | C20H21N3O3
